US08877968B2
To 10 g (33.8 mmol) of (S)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionic acid are added 75 mL of methanol and then 10 mL of sulfuric acid dropwise over 30 minutes. After 30 hours, the reaction medium is basified to pH 8-9 by adding aqueous 10N sodium hydroxide solution followed by saturated sodium hydrogen carbonate solution. The organic products are extracted with dichloromethane. The organic phase is dried over magnesium sulfate and then filtered, and the solvents are evaporated off. 6.36 g of methyl (S)-2-amino-3-(4-methoxyphenyl)propionate in the form of a brown oil are obtained in a yield of 90%.

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionic acid | 33.8 mmol, 10 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 75 mL | CO | CH4O
product | methyl (S)-2-amino-3-(4-methoxyphenyl)propionate | 6.36 g, yield of 90% | N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC | C11H15NO3
